US04468394
A mixture of 6,7-diacetoxy-1-methyl-1,2-dihydro-2-oxoquinoline-3-carboxylic acid (60 mg), thionyl chloride (40 μL), and dimethylformamide (one drop) was heated under reflux for 2 hours in 40 mL of benzene, and the solvent was distilled off. Benzene (30 mL) was added to the residue and the benzene was distilled off again, followed by vacuum drying, to yield 6,7-diacetoxy-1-methyl-1,2-dihydro-2-oxoquinoline-3-carbonyl chloride.

reactant | 6,7-diacetoxy-1-methyl-1,2-dihydro-2-oxoquinoline-3-carboxylic acid | 60 mg | C(C)(=O)OC=1C=C2C=C(C(N(C2=CC1OC(C)=O)C)=O)C(=O)O | C15H13NO7
reactant | thionyl chloride | 40 μL | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | 6,7-diacetoxy-1-methyl-1,2-dihydro-2-oxoquinoline-3-carbonyl chloride | C(C)(=O)OC=1C=C2C=C(C(N(C2=CC1OC(C)=O)C)=O)C(=O)Cl | C15H12ClNO6
